US05051422
4-(3-Bromo-5-methoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinecarboxamide
In a manner similar to Preparation 1, react N-(3-bromo-5-methoxyphenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine with 2,3-dibromopropanamide to obtain the title compound.

reactant | N-(3-bromo-5-methoxyphenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine | BrC=1C=C(C=C(C1)OC)NCCNCC1=CC(=C(C=C1)OC)OC | C18H23BrN2O3
reactant | 2,3-dibromopropanamide | BrC(C(=O)N)CBr | C3H5Br2NO
product | 4-(3-Bromo-5-methoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinecarboxamide | BrC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)C(=O)N | C21H26BrN3O4
